US07129238B2
(RS)-(3-Cyclopentyloxy-4-methoxy-phenyl)-methoxy-acetic acid was coupled with 4-aminomethyl benzonitrile according to general procedure B to give (RS)-N-(4-cyano-benzyl)-2-(3-cyclopentyloxy-4-methoxy-phenyl)-2-methoxy-acetamide. Colorless solid.

reactant | (RS)-(3-Cyclopentyloxy-4-methoxy-phenyl)-methoxy-acetic acid | C1(CCCC1)OC=1C=C(C=CC1OC)C(C(=O)O)OC | C15H20O5
reactant | 4-aminomethyl benzonitrile | NCC1=CC=C(C#N)C=C1 | C8H8N2
product | (RS)-N-(4-cyano-benzyl)-2-(3-cyclopentyloxy-4-methoxy-phenyl)-2-methoxy-acetamide | C(#N)C1=CC=C(CNC(C(OC)C2=CC(=C(C=C2)OC)OC2CCCC2)=O)C=C1 | C23H26N2O4
